### PR TITLE
feat: definition and basic results for masas

### PR DESCRIPTION
**Pull request by JonBannon**
Only included NonUnitalCStarAlgebra instance so far, but others can easily be supplied later.

### CODE REVIEW

File: LeanOA/Masa.lean [hunk 1]
```diff
@@ -0,0 +1,73 @@
...
+  simpa using mul_comm (G := B.topologicalClosure)
+
+end TopologicalAlgebra
+
+section NonUnitalCStarAlgebra
+
+variable {A : Type*}
+
+theorem isClosed_of_masa_of_nonUnitalCStarAlgebra [NonUnitalCStarAlgebra A]
+    (B : NonUnitalStarSubalgebra ℂ A) (hB : B.IsMasa) : IsClosed (B : Set A) := masa_closed B hB
```
Comment (j-loreaux) [inline LeanOA/Masa.lean]: you don't need this as a seaparate theorem.

File: LeanOA/Masa.lean [hunk 2]
```diff
@@ -0,0 +1,73 @@
...
+
+end NonUnitalStarSubalgebra
+section TopologicalAlgebra
+
+variable {R A : Type*} [CommSemiring R] [NonUnitalRing A] [Module R A]
+variable [StarRing A] [TopologicalSpace A] [IsTopologicalRing A] (B : NonUnitalStarSubalgebra R A)
+variable [ContinuousConstSMul R A] [ContinuousStar A] [T2Space A]
+
+theorem masa_closed (B : NonUnitalStarSubalgebra R A) (hB : B.IsMasa) :
+    IsClosed (B : Set A) := by
```
Comment (j-loreaux) [inline LeanOA/Masa.lean]:
```suggestion
theorem NonUnitalStarSubalgebra.IsMasa.isClosed (B : NonUnitalStarSubalgebra R A) (hB : B.IsMasa) :
    IsClosed (B : Set A) := by
```

File: LeanOA/Masa.lean (hunk 1 above)
Comment (JonBannon) [reply LeanOA/Masa.lean]: Oops...forgot to get rid of that...

File: LeanOA/Masa.lean [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+variable {R A : Type*} [CommSemiring R] [NonUnitalRing A] [Module R A]
+variable [StarRing A] [TopologicalSpace A] [IsTopologicalRing A] (B : NonUnitalStarSubalgebra R A)
+variable [ContinuousConstSMul R A] [ContinuousStar A] [T2Space A]
+
+theorem NonUnitalStarSubalgebra.IsMasa.isClosed (B : NonUnitalStarSubalgebra R A) (hB : B.IsMasa) :
+    IsClosed (B : Set A) := closure_subset_iff_isClosed.mp <|
+  by refine hB.maximal _ ?_ B.le_topologicalClosure
+     let h := B.nonUnitalCommSemiringTopologicalClosure <|
+     by simpa using hB.comm
+     simpa using mul_comm (G := B.topologicalClosure)
```
Comment (themathqueen) [inline LeanOA/Masa.lean]:
```suggestion
    IsClosed (B : Set A) := closure_subset_iff_isClosed.mp <| by
  refine hB.maximal _ ?_ B.le_topologicalClosure
  let h := B.nonUnitalCommSemiringTopologicalClosure <| by simpa using hB.comm
  simpa using mul_comm (G := B.topologicalClosure)
```

File: LeanOA/Masa.lean [hunk 4]
```diff
@@ -0,0 +1,70 @@
...
+
+variable {R A : Type*} [CommSemiring R] [NonUnitalRing A] [Module R A]
+variable [StarRing A] [TopologicalSpace A] [IsTopologicalRing A] (B : NonUnitalStarSubalgebra R A)
+variable [ContinuousConstSMul R A] [ContinuousStar A] [T2Space A]
+
+theorem NonUnitalStarSubalgebra.IsMasa.isClosed (B : NonUnitalStarSubalgebra R A) (hB : B.IsMasa) :
+    IsClosed (B : Set A) := closure_subset_iff_isClosed.mp <| by
+  refine hB.maximal _ ?_ B.le_topologicalClosure
+  let h := B.nonUnitalCommSemiringTopologicalClosure <| by simpa using hB.comm
+  simpa using mul_comm (G := B.topologicalClosure)
```
Comment (themathqueen) [inline LeanOA/Masa.lean]: for some reason, this fails with the updated mathlib
this works:

```suggestion
  exact fun a ha b hb ↦ Subtype.coe_inj.mpr <| mul_comm ⟨a, ha⟩ ⟨b, hb⟩
```

File: LeanOA/Masa.lean [hunk 5]
```diff
@@ -0,0 +1,70 @@
...
+
+end TopologicalAlgebra
+
+section NonUnitalCStarAlgebra
+
+variable {A : Type*}
+
+instance [NonUnitalCStarAlgebra A] {B : NonUnitalStarSubalgebra ℂ A} [hB : B.IsMasa] :
```
Comment (themathqueen) [inline LeanOA/Masa.lean]: if you call this `NonUnitalStarSubalgebra.IsMasa.instNonUnitalCommCStarAlgebra`, I think you can then easily get the unital version?

```lean
instance [CStarAlgebra A] {B : StarSubalgebra ℂ A} [hB : B.toNonUnitalStarSubalgebra.IsMasa] :
    CommCStarAlgebra B where
  __ := hB.instNonUnitalCommCStarAlgebra
  __ := B.algebra
  __ := B.toRing
```

Comment (themathqueen) [reply LeanOA/Masa.lean]: yeah, that's better. let's do that

Comment (JonBannon) [reply LeanOA/Masa.lean]: Will make an attempt at this in a section below. (Just cutting my teeth...this attempt will have to be modified.)
